US04729985
1,5-Di(benzyloxycarbonylamino)pentane
Under N2, 1,5-diaminopentane (2.86 ml., 2.5 g., 0.0245 mol) was dissolved in 50 ml. CH2Cl2 and cooled to 0° . With stirring, benzyloxycarbonyl chloride (3.67 ml., 4.17 g., 0.0245 mol) was added dropwise, maintaining the temperature near 0° . The mixture was warmed to room temperature, washed 2×50 ml. 5% HCl, 1×50 ml. saturated NaHCO3, and 1×50 ml. brine, dried (MgSO4) and stripped to yield title product as a white solid, 4 g.; 1H-nmr (CDCl3) includes delta 5.2 ppm (s, 4H, two benzyl CH2 groups). The yield is greatly enhanced by use of two molar equivalents of the acid chloride.

reactant | 1,5-diaminopentane | 0.0245 mol, 2.86 ml, 2.5 g | NCCCCCN | C5H14N2
reactant | benzyloxycarbonyl chloride | 0.0245 mol, 3.67 ml, 4.17 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1,5-Di(benzyloxycarbonylamino)pentane | C(C1=CC=CC=C1)OC(=O)NCCCCCNC(=O)OCC1=CC=CC=C1 | C21H26N2O4
